US07119205B2
5-chloro-2-(2-cyano-acetylamino)-4-[4-(1-hydroxy-cyclopent-3-enylmethoxy)-phenyl)-thiophene-3-carboxylic acid ethyl ester
To an ambient solution of 4-[4-(2-allyl-2-hydroxy-pent-4-enyloxy)-phenyl]-5-chloro-2-(2-cyano-acetylamino)-thiophene-3-carboxylic acid ethyl ester (300 mg, 0.613 mmol) in DCM (12.3 mL) was added [1,3-bis-(2,4,6-trimethylphenyl)-2-imidazolidinynlidene)dichloro(phenylmethylene)-(tricyclohexylphoshine)ruthenium] (29 mg, 0.034 mmol) in a single portion. The reaction was stirred overnight and then concentrated under reduced pressure to a dark oil. The residue was purified by MPLC (SiO2 gel, 1:1 Hx:EtOAc) to yield the title compound as an oil. MS (ESI) m/e 459 (M−H)−; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.88 (m, 3H), 2.32 (d, J=15.60 Hz, 2H), 2.56 (d, J=15.60 Hz, 2H), 3.91 (s, 2H), 4.01 (m, 2H), 4.31 (m, 2H), 4.90 (s, 1H), 5.67 (s, 2H), 6.98 (m, 2H), 7.14 (m, 2H), 11.37 (s, 1H).

reactant | 4-[4-(2-allyl-2-hydroxy-pent-4-enyloxy)-phenyl]-5-chloro-2-(2-cyano-acetylamino)-thiophene-3-carboxylic acid ethyl ester | 0.613 mmol, 300 mg | C(C)OC(=O)C1=C(SC(=C1C1=CC=C(C=C1)OCC(CC=C)(O)CC=C)Cl)NC(CC#N)=O | C24H25ClN2O5S
solvent | DCM | 12.3 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-(2-cyano-acetylamino)-4-[4-(1-hydroxy-cyclopent-3-enylmethoxy)-phenyl)-thiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(SC(=C1C1=CC=C(C=C1)OCC1(CC=CC1)O)Cl)NC(CC#N)=O | C22H21ClN2O5S
